US05977105
c) N-Methyl 6-((2R)-2-hydroxy-4-(3-pyridyl)-1-butoxy)naphthalen-2-yloxyacetamide
A solution of 6-((2R)-2-hydroxy-4-(3-pyridyl)-1-butoxy)naphthalen-2-yloxyacetic acid methyl ester (0.215 g) in methanol (10 ml) was saturated with methylamine gas. After 16 hours the crystalline product was collected by filtration and dried under vacuum to give the title compound as a solid (0.10 g).

reactant | 6-((2R)-2-hydroxy-4-(3-pyridyl)-1-butoxy)naphthalen-2-yloxyacetic acid methyl ester | 0.215 g | COC(COC1=CC2=CC=C(C=C2C=C1)OC[C@@H](CCC=1C=NC=CC1)O)=O | C22H23NO5
reactant | methylamine | CN | CH5N
solvent | methanol | 10 ml | CO | CH4O
product | N-Methyl 6-((2R)-2-hydroxy-4-(3-pyridyl)-1-butoxy)naphthalen-2-yloxyacetamide | 0.10 g | CNC(COC1=CC2=CC=C(C=C2C=C1)OC[C@@H](CCC=1C=NC=CC1)O)=O | C22H24N2O4
